US05864039
4-Amino-5-chloro-2-methoxy-N-((1-(5-(2-naphthylmethylamino)pentyl)-piperidin-4-yl)methyl)benzamide (1.50 g) as starting compound, acetaldehyde (0.18 ml) and sodium cyanoborohydride (0.40 g) were reacted and treated in the same manner as in Example 136 to give 1.1 g of 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-(2-naphthylmethyl)amino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-2-methoxy-N-((1-(5-(2-naphthylmethylamino)pentyl)-piperidin-4-yl)methyl)benzamide | 1.50 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCNCC2=CC3=CC=CC=C3C=C2)C=C1Cl)OC | C30H39ClN4O2
reactant | acetaldehyde | 0.18 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.40 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(5-(N-ethyl-N-(2-naphthylmethyl)amino)pentyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 1.1 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCN(CC2=CC3=CC=CC=C3C=C2)CC)C=C1Cl)OC | C32H43ClN4O2
